US07449223B2
With the exception of replacing the 4-(6-hydroxyhexyloxy)phenylbenzene from the synthesis example 1 with 4-(4-propylcyclohexyl)phenol, 15 g of a monoacrylate containing a group (h): 4-(4-propylcyclohexyl)phenyl acrylate was obtained in the same manner as the synthesis example 1. Hereafter this monoacrylate is abbreviated as (A-7).

reactant | 4-(6-hydroxyhexyloxy)phenylbenzene | OCCCCCCOC1=CC=C(C=C1)C1=CC=CC=C1 | C18H22O2
reactant | 4-(4-propylcyclohexyl)phenol | C(CC)C1CCC(CC1)C1=CC=C(C=C1)O | C15H22O
product | 4-(4-propylcyclohexyl)phenyl acrylate | C(C=C)(=O)OC1=CC=C(C=C1)C1CCC(CC1)CCC | C18H24O2
